US04357333
N-(4-Dipropylaminobutyl)-3-methyl-N-propyl-2-(8-trifluoromethyl-4-quinolylamino)benzamide
3-Methyl-2-(8-trifluoromethyl-4-quinolylamino)benzoyl chloride hydrochloride prepared by the reaction of 4-chloro-8-trifluoromethylquinoline with 2-amino-3-methylbenzoic acid and treatment of the reaction product with thionyl chloride, is reacted with 1-dipropylamino-4-propylaminobutane to afford the title compound.

reactant | 3-Methyl-2-(8-trifluoromethyl-4-quinolylamino)benzoyl chloride hydrochloride | Cl.CC=1C(=C(C(=O)Cl)C=CC1)NC1=CC=NC2=C(C=CC=C12)C(F)(F)F
reactant | 4-chloro-8-trifluoromethylquinoline | ClC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 2-amino-3-methylbenzoic acid | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-dipropylamino-4-propylaminobutane | C(CC)N(CCCCNCCC)CCC | C13H30N2
product | N-(4-Dipropylaminobutyl)-3-methyl-N-propyl-2-(8-trifluoromethyl-4-quinolylamino)benzamide | C(CC)N(CCCCN(C(C1=C(C(=CC=C1)C)NC1=CC=NC2=C(C=CC=C12)C(F)(F)F)=O)CCC)CCC | C31H41F3N4O
